US04395400
(a) Z-D-Aad(OBut)-OBzl
400 ml of isobutylene are added to a solution of 40 g (approx. 104 mmoles) of Z-D-Aad-OBzl in 400 ml of methylene chloride, followed, at -20°, by 4 ml of concentrated sulfuric acid. The mixture is allowed to stand in an autoclave for 3 days at room temperature. The batch is stirred with NaHCO3 solution in order to neutralize the sulfuric acid and the excess isobutylene is removed by means of a stream of nitrogen. The methylene chloride phase is extracted by shaking with water and is dried over Na2SO4 and concentrated. This leaves 46.3 g of an oil, which is chromatographed on 500 g of silica gel using a 9:1 mixture of methylene chloride and acetone. The eluate, which contains Z-Aad-(OBut)-OBzl, is concentrated. Yield: 42.35 g of a pale oil (92%).

reactant | isobutylene | 400 ml | CC(C)=C | C4H8
reactant | Z-D-Aad-OBzl | approx. 104 mmoles, 40 g | N([C@H](CCCC(=O)O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C21H23NO6
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | Z-D-Aad(OBut)-OBzl | N([C@H](CCCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H31NO6
